US04897420
6-[6-(4-Acetoxyphenyl)hexyl]-2,3-dimethoxy-5-methyl-1,4-benzoquinone (2.1 g) is dissolved in a mixture of concentrated hydrochloric acid (0.3 ml) and methanol (55 ml), and the solution is allowed to stand at room temperature for 4 hours. The methanol is distilled off under reduced pressure, and the residue is diluted with water and extracted with ethyl acetate (200 ml). The extract is washed with water and dried. The solvent is then distilled off under reduced pressure and the residue is purified by silica gel column chromatography. The fractions containing the desired product are recrystallized from ether-hexane to give 830 mg of 6-[6-(4-hydroxyphenyl)hexyl]-2,3-dimethoxy-5-methyl-1,4-benzoquinone, m.p. 87°-88° C.

reactant | 6-[6-(4-Acetoxyphenyl)hexyl]-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 2.1 g | C(C)(=O)OC1=CC=C(C=C1)CCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C23H28O6
solvent | hydrochloric acid | 0.3 ml | Cl | ClH
solvent | methanol | 55 ml | CO | CH4O
product | 6-[6-(4-hydroxyphenyl)hexyl]-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 830 mg | OC1=CC=C(C=C1)CCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C21H26O5
